US04507478
Preparation of trans-(±)-2-hydroxy-6-n-propyl-5,5a,6,7,8,9,9a,10-octahydropyrimido[4,5-g]quinoline
A mixture of 0.93 g. of trans-(±)-2-methylthio-6-n-propyl-5,5a,6,7,8,9,9a,10-octahydropyrimido[4,5-g]quinoline and 2 ml. of 12N aqueous hydrochloric acid was heated to reflux temperature for 1.5 hours. The reaction mixture was then concentrated in vacuo. Methanol was added and the reaction mixture again concentrated in vacuo. A residual green oil, comprising trans-(±)-2-hydroxy-6-n-propyl-5,5a,6,7,8,9,9a,10-octahydropyrimido[4,5-g]quinoline dihydrochloride formed in the above reaction was dissolved in a mixture of ethyl acetate and ethanol. As the green oil dissolved, crystals formed. Trans-(±)-2-hydroxy-6-n-propyl-5,5a,6,7,8,9,9a,10-octahydropyrimido[4,5-g]quinoline dihydrochloride thus prepared had the following physical characteristics: Rf (methanol)=0.5; molecular ion at 247; yield=0.62 g.

reactant | trans-(±)-2-methylthio-6-n-propyl-5,5a,6,7,8,9,9a,10-octahydropyrimido[4,5-g]quinoline | CSC=1N=CC2=C(C[C@@H]3CCCN([C@H]3C2)CCC)N1 | C15H23N3S
reactant | hydrochloric acid | 12N | Cl | ClH
reactant | Trans-(±)-2-hydroxy-6-n-propyl-5,5a,6,7,8,9,9a,10-octahydropyrimido[4,5-g]quinoline dihydrochloride | Cl.Cl.OC=1N=CC2=C(C[C@@H]3CCCN([C@H]3C2)CCC)N1
reactant | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | trans-(±)-2-hydroxy-6-n-propyl-5,5a,6,7,8,9,9a,10-octahydropyrimido[4,5-g]quinoline | OC=1N=CC2=C(C[C@@H]3CCCN([C@H]3C2)CCC)N1 | C14H21N3O
